US07981918B2
(R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-4-oxo-butyraldehyde
Dissolve (R)-4-Benzyl-3-[(S)-2-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-pent-4-enoyl]-oxazolidin-2-one (1.95 mmoles; 1.00 g) in dichloromethane (10 ml) and methanol (1 mL). Cool the mixture to −78° C. in a dry ice acetone bath and add ozone subsurface to the reaction with an exotherm to −71° C. The reaction turns blue, and then sweep with nitrogen to a clear color. Add dimethyl sulfide (2 mL; 27.20 mmoles) dropwise at −78° C. Warm the solution to ambient temperature and then test with KI starch paper (test is negative). Remove the solvents under vacuum, extract with MTBE, wash with pH=7 buffer, water, and brine. Concentrate the organics under vacuum to give a white non-crystalline solid (0.81 g). LCMS (M+1=515.39).

reactant | (R)-4-Benzyl-3-[(S)-2-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-pent-4-enoyl]-oxazolidin-2-one | 1.95 mmoles, 1.00 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=C)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)F)Cl)=O | C28H24Cl2FNO3
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 27.20 mmoles, 2 mL | CSC | C2H6S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | (R)-4-((R)-4-Benzyl-2-oxo-oxazolidin-3-yl)-3-(3,5-dichloro-4′-fluoro-biphenyl-4-ylmethyl)-4-oxo-butyraldehyde | 0.81 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=O)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)F)Cl)=O | C27H22Cl2FNO4
